US08609688B2
Synthesis of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(1,4-dioxan-2-ylcarbonyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
To a suspension of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50 mg) and N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,4-dioxane-2-carboxamide (68 mg) and potassium phosphate (65 mg) and PdCl2(dppf)CH2Cl2 (8 mg) in dioxane (2 mL) and H2O (0.2 mL) was degassed for 5 minutes and then heated to 80° C. for 18 h. The reaction mixture was concentrated under reduced pressure. Purification by column chromatography (2 times: 0-10% methanol in chloroform then 0-10% methanol in ethyl acetate) gave the product (44 mg, 66%).

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 50 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | N-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,4-dioxane-2-carboxamide | 68 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)C1OCCOC1)C | C17H24BNO5
reactant | potassium phosphate | 65 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.2 mL | O | H2O
product | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(1,4-dioxan-2-ylcarbonyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 44 mg, 66% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)NC(=O)C2OCCOC2)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C37H39N7O5
